US06784167B2
A solution of KMnO4 (3.7 g, 23.4 mmol) in water (100 mL) was slowly added to a solution of (3-methylphenyl)boronic acid (1.5 g, 11 mmol) and NaOH (1 g, 25 mmol) in water (60 mL), while the temperature was maintained between 30° C. and 40° C. using a water bath. The resulting brown suspension was heated at 55° C. for 2 h and allowed to cool to room temperature. EtOH (1 mL) was added, the resulting slurry was filtered and the filtrate concentrated to 100 mL under reduced pressure. The resulting mixture was acidified with conc. HCl (1.5 mL) and kept at 5° C. overnight. The white suspension was filtered to give (3-carboxyphenyl)boronic acid (1.44 g, 79%) as a white solid: 1H NMR (D2O) δ 7.51 (m, 1H), 7.99 (m, 1H), 8.07 (m, 1H), 8.4 (s, 1H).

reactant | KMnO4 | 23.4 mmol, 3.7 g | [O-][Mn](=O)(=O)=O.[K+]
reactant | (3-methylphenyl)boronic acid | 11 mmol, 1.5 g | CC=1C=C(C=CC1)B(O)O | C7H9BO2
reactant | NaOH | 25 mmol, 1 g | [OH-].[Na+]
reactant | EtOH | 1 mL | CCO | C2H6O
solvent | water | 100 mL | O | H2O
solvent | water | 60 mL | O | H2O
product | (3-carboxyphenyl)boronic acid | 1.44 g, 79% | C(=O)(O)C=1C=C(C=CC1)B(O)O | C7H7BO4
